US07538121B2
7-Amino-5-chloroquinoline
5-Chloro-7-nitroquinoline (D82) (50 mg, 0.24 mmol) was treated with tin dichloride dihydrate (216 mg, 0.96 mmol) and conc. hydrochloric acid (2 ml) in ethanol (5 ml) at 70° C. for 4 h. After cooling to room temperature and the ethanol removed in vacuo then the residue was dissolved in water and neutralised with potassium carbonate. This was then extracted with EtOAc which was dried over MgSO4 and concentrated in vacuo to give the title compound as a brown solid (18 mg). 1H NMR (400 MHz, CDCl3) δ (ppm): 8.78 (d, 1H), 8.39 (d, 1H), 7.25 (dd, 1H), 7.18 (d, 1H), 7.11 (d, 1H).

reactant | 5-Chloro-7-nitroquinoline | 0.24 mmol, 50 mg | ClC1=C2C=CC=NC2=CC(=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | tin dichloride dihydrate | 0.96 mmol, 216 mg | O.O.[Sn](Cl)Cl
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-Amino-5-chloroquinoline | 18 mg | NC1=CC(=C2C=CC=NC2=C1)Cl | C9H7ClN2
